US06528525B1
(a) Ethyl 3-(4-benzyloxyphenyl)-2-(4-isopropylphenoxy)-2-methylpropionate
In a similar manner to that described in Reference example 7(c), a reaction was carried out using ethyl 2-(4-isopropylphenoxy)propionate (4.72 g) and 4-benzyloxybenzyl chloride (6.00 g) and dicyclohexylamine (3.62 g) instead of diisopropylamine and the reaction mixture was treated to afford the desired compound (6.16 g) as a syrup.

reactant | ethyl 2-(4-isopropylphenoxy)propionate | 4.72 g | C(C)(C)C1=CC=C(OC(C(=O)OCC)C)C=C1 | C14H20O3
reactant | 4-benzyloxybenzyl chloride | 6.00 g | C(C1=CC=CC=C1)OC1=CC=C(CCl)C=C1 | C14H13ClO
reactant | dicyclohexylamine | 3.62 g | C1(CCCCC1)NC1CCCCC1 | C12H23N
product | Ethyl 3-(4-benzyloxyphenyl)-2-(4-isopropylphenoxy)-2-methylpropionate | 6.16 g | C(C1=CC=CC=C1)OC1=CC=C(C=C1)CC(C(=O)OCC)(C)OC1=CC=C(C=C1)C(C)C | C28H32O4
